US09278996B2
(S)-t-butyl(1-(2,6-difluorophenyl)-1-oxopropan-2-yl)carbamate (IX-9)
With the exception that (S)-t-butyl(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)carbamate and 1-bromo-2,6-difluorobenzene were used instead of (R)-t-butyl(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)carbamate and 4-methoxybromobenzene, respectively, the same procedure as in Preparation Example 5-5 was repeated to afford the title compound. 0.26 g (17%).

reactant | (S)-t-butyl(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)carbamate | C(C)(C)(C)OC(N[C@H](C(=O)N(C)OC)C)=O | C10H20N2O4
reactant | 1-bromo-2,6-difluorobenzene | BrC1=C(C=CC=C1F)F | C6H3BrF2
reactant | (R)-t-butyl(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)carbamate | C(C)(C)(C)OC(N[C@@H](C(=O)N(C)OC)C)=O | C10H20N2O4
reactant | 4-methoxybromobenzene | COC1=CC=C(C=C1)Br | C7H7BrO
product | (S)-t-butyl(1-(2,6-difluorophenyl)-1-oxopropan-2-yl)carbamate | C(C)(C)(C)OC(N[C@H](C(=O)C1=C(C=CC=C1F)F)C)=O | C14H17F2NO3
